US05872115
Step 3): A mixture of 5-isopropyl-N-tert-butoxycarbonylanthranilic acid (1.0 g, 3.58 mmol), 4-aminomethyl-1-diphenylmethylpiperidine (1.0 g, 3.57 mmol), triethylamine (0.37 g, 3.66 mmol) and DPPA (1.0 g, 3.63 mmol) in DMF was stirred at 0° C. for 30 mins and at room temperature for 2 hours. The mixture was poured into H2O and extracted with AcOEt. The extract was washed with H2O, dried over MgSO4 and evaporated and then the residue was purified by column chromatography on silica gel to give 2-(tert-butoxycarbonyl)amino-5-isopropyl-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide, 1.86 g (96.4%): mp 88°-90° C.

reactant | 5-isopropyl-N-tert-butoxycarbonylanthranilic acid | 3.58 mmol, 1.0 g | C(C)(C)C1=CC=C(C(C(=O)O)=C1)NC(=O)OC(C)(C)C | C15H21NO4
reactant | 4-aminomethyl-1-diphenylmethylpiperidine | 3.57 mmol, 1.0 g | NCC1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H24N2
reactant | triethylamine | 3.66 mmol, 0.37 g | C(C)N(CC)CC | C6H15N
reactant | DPPA | 3.63 mmol, 1.0 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | DMF | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-(tert-butoxycarbonyl)amino-5-isopropyl-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)C(C)C | C34H43N3O3
